simulator lang=spectre
global 0

ahdl_include "multimod_divider_ref.va"

Vclk (clk_in 0) vsource type=pulse val0=0 val1=0.9 period=1n delay=0.1n rise=20p fall=20p width=0.5n
Vmod (mod 0) vsource type=pwl wave=[0 0 40n 0 40.5n 0.9 90n 0.9]
Vb0  (mod_0 0) vsource dc=0.0
Vb1  (mod_1 0) vsource dc=0.0
Vb2  (mod_2 0) vsource dc=0.9
Vb3  (mod_3 0) vsource dc=0.0

// base_count = 4, so target_count is 4 when mod=0 and 5 when mod=1.
XDUT (clk_in mod mod_0 mod_1 mod_2 mod_3 prescaler_out) multimod_divider_ref

tran tran stop=90n maxstep=50p
save clk_in mod mod_0 mod_1 mod_2 mod_3 prescaler_out
